US06653313B2
To a cooled solution of dimethyl 2-[2-(2-aminophenyl)ethyl]-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate (224.9 mg/0.422 mmol) and triethylamine (75 μl/0.540 mmol) in dichloromethane (8 ml) was added dropwise trifluoromethanesulfonic anhydride (72 μl/0.439 mmol) and stirred under N2 for 45 minutes. The mixture was added ice and allowed to warm to room temperature. The whole was extracted with dichloromethane, washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (Hexane:EtOAc=3:2-1:1) to afford dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-(2-{[(trifluoromethyl)sulfonyl]amino}phenyl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate as a pale yellow solid (235.9 mg/84%).

reactant | dimethyl 2-[2-(2-aminophenyl)ethyl]-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | 0.422 mmol, 224.9 mg | NC1=C(C=CC=C1)CCC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CC(=O)OC | C26H26Cl2N2O6
reactant | triethylamine | 0.540 mmol, 75 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.439 mmol, 72 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-(2-{[(trifluoromethyl)sulfonyl]amino}phenyl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F)CC(=O)OC)C(=O)OC | C27H25Cl2F3N2O8S
